US05811459
To a solution of methyl 4-[3-(2-benzyloxy-5-hydroxymethylphenyl) propyl]benzoate (5.31 g) in methanol (100 ml) was added 4-methylbenzenesulphonic acid (3.11 g). The reaction was heated at reflux for 18 hours, the solvent evaporated, the residue dissolved in EtOAc, washed with brine and the solvent evaporated to give methyl 4-[3-(2-benzyloxy-5-methoxymethylphenyl)propyl]benzoate (3.64 g).

reactant | methyl 4-[3-(2-benzyloxy-5-hydroxymethylphenyl) propyl]benzoate | 5.31 g | C(C1=CC=CC=C1)OC1=C(C=C(C=C1)CO)CCCC1=CC=C(C(=O)OC)C=C1 | C25H26O4
reactant | 4-methylbenzenesulphonic acid | 3.11 g | CC1=CC=C(C=C1)S(=O)(=O)O | C7H8O3S
solvent | methanol | 100 ml | CO | CH4O
product | methyl 4-[3-(2-benzyloxy-5-methoxymethylphenyl)propyl]benzoate | 3.64 g | C(C1=CC=CC=C1)OC1=C(C=C(C=C1)COC)CCCC1=CC=C(C(=O)OC)C=C1 | C26H28O4
